US06638685B2
Using the 100-millilitter 3-port flask, 2 grams of tetrahydrothiophene was dissolved in 20 milli-litter of acetone. 4.87 grams of 1-bromo-3,3-dimethyl-2-butanone was dropped into the solution over agitation. After 24 hours, white crystal was precipitated, and was filtrated. The white crystal was pulverized, and was washed in ether. The pulverized white crystal was dried at 30 degrees in centigrade for 6 hours by using a low-pressure drier. 5.15 grams of 2-oxo-3,3-dimethylbutyl-thiacyclopentanium bromide was obtained. The yield was 75.0%.

reactant | tetrahydrothiophene | 2 grams | S1CCCC1 | C4H8S
reactant | 1-bromo-3,3-dimethyl-2-butanone | 4.87 grams | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | acetone | CC(=O)C | C3H6O
product | 2-oxo-3,3-dimethylbutyl-thiacyclopentanium bromide | 5.15 grams, yield was 75.0% | [Br-].O=C(C[S+]1CCCC1)C(C)(C)C | InChI=1S/C10H19OS.BrH/c1-10(2,3)9(11)8-12-6-4-5-7-12;/h4-8H2,1-3H3;1H/q+1;/p-1
